US04609753
Preparation of 3-[N-{2-nitro-5-(2-chloro-4-isopropylsulphonylphenoxy)phenyl}amino]propionitrile (44).
A solution of 4.0 g of 2-chloro-4-isopropylsulphonyl-(3,4-dinitrophenoxy)benzene and 3.85 g of 3-aminopropionitrile. 0.5 fumarate in 100 ml of acetonitrile, to which 4.1 g of potassium carbonate was added, was refluxed for 6 hours. After evaporation the residue was dissolved in methylenechloride an extracted with water. After washing with water the organic layer was filtered and reduced. Recrystallisation from methanol yielded 3.0 g of the desired product; m.p. 140° C.

reactant | 2-chloro-4-isopropylsulphonyl-(3,4-dinitrophenoxy)benzene | 4.0 g | ClC1=C(C=CC(=C1)S(=O)(=O)C(C)C)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H13ClN2O7S
reactant | 3-aminopropionitrile | 3.85 g | NCCC#N | C3H6N2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-[N-{2-nitro-5-(2-chloro-4-isopropylsulphonylphenoxy)phenyl}amino]propionitrile | 3.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=C(C=C1)S(=O)(=O)C(C)C)Cl)NCCC#N | C18H18ClN3O5S
